US09388177B2
[4-bromo-3-(2,2,2-trifluoroethoxy)phenyl](3-fluoroazetidin-1-yl)methanone
Starting with 4-bromo-3-(2,2,2-trifluoroethoxy)benzoic acid and 3-fluoroazetidine hydrochloride, Int06.04 was prepared analogously to the procedure for the preparation of Int02.06.

reactant | 4-bromo-3-(2,2,2-trifluoroethoxy)benzoic acid | BrC1=C(C=C(C(=O)O)C=C1)OCC(F)(F)F | C9H6BrF3O3
reactant | 3-fluoroazetidine hydrochloride | Cl.FC1CNC1
product | [4-bromo-3-(2,2,2-trifluoroethoxy)phenyl](3-fluoroazetidin-1-yl)methanone | BrC1=C(C=C(C=C1)C(=O)N1CC(C1)F)OCC(F)(F)F | C12H10BrF4NO2
